US06518257B1
(iii) Production of N-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}propanamide
By the reaction in the same manner as in Example 4-(iii) using N-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}propanamide (1.46 g) and pyridine hydrochloride (440 mg), the title compound (280 mg) was obtained as a colorless amorphous powder.

reactant | N-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}propanamide | 1.46 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(CC)=O | C41H39N3O2
reactant | pyridine hydrochloride | 440 mg | Cl.N1=CC=CC=C1
product | N-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}propanamide | 280 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(CC)=O | C22H25N3O2
